US05594014
B. (R)-1-(N-Benzyloxycarbonylpyrrolidin-2-yl)-3-(N-(2-bromo-4-(3-benzyl-1,2,4-oxadiazol-5-yl)phenyl)-N-trifluoroacetylamino)propene
4-(3-Benzyl-1,2,4-oxadiazol-5-yl)-2-bromo-1-trifluoroacetylaminobenzene and (R)-1-(N-benzyloxycarbonylpyrrolidin-2-yl)-3-hydroxypropene were used. Chromatography using elution with 5% either in methylene chloride afforded the title compound (88%) as a thick yellow oil: R1 =0.32 (CHCl3); LRMS (m/z, relative intensity) 669 (M+, 25).

reactant | 4-(3-Benzyl-1,2,4-oxadiazol-5-yl)-2-bromo-1-trifluoroacetylaminobenzene | C(C1=CC=CC=C1)C1=NOC(=N1)C1=CC(=C(C=C1)NC(C(F)(F)F)=O)Br | C17H11BrF3N3O2
reactant | (R)-1-(N-benzyloxycarbonylpyrrolidin-2-yl)-3-hydroxypropene | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C=CCO | C15H19NO3
product | (R)-1-(N-Benzyloxycarbonylpyrrolidin-2-yl)-3-(N-(2-bromo-4-(3-benzyl-1,2,4-oxadiazol-5-yl)phenyl)-N-trifluoroacetylamino)propene | 88% | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C=CCN(C(C(F)(F)F)=O)C1=C(C=C(C=C1)C1=NC(=NO1)CC1=CC=CC=C1)Br | C32H28BrF3N4O4
